US05502065
3-(1-Methylpyrrolidin-2(R)-ylmethyl)-5-(4-methylsulphonylphenyl)-1H-indole
A mixture of 4-methylsulphonylphenyltri-n-butylstannane (see Preparation 15) (680 mg, 1.53 mmol) tri-o-tolyphosphine (120 mg, 0,394 mmol), palladium (II) acetate (15 mg, 0.067 mmol), triethylamine (0.40 ml, 2.87 mmol) and 5-bromo-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1H-indole (400 mg, 1.36 mmol) (see Preparation 36) in anhydrous acetonitrile (5 ml) was heated under reflux, under nitrogen, for 18 hours. The reaction mixture was then evaporated under reduced pressure and dichloromethane (25 ml) was added. The resultant solution was washed with aqueous sodium carbonate, dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate/diethylamine (98:2) to afford, after combination and evaporation of the appropriate fractions, the title compound as a white foam, (189 mg). Found: C,68.17; H,6.81; N,7.53; C21H24N2O2S.1/20 CH2Cl2 requires: C,67.83; H,6.51; N,7.52%.

reactant | 4-methylsulphonylphenyltri-n-butylstannane | 1.53 mmol, 680 mg | CS(=O)(=O)C1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC
reactant | tri-o-tolyphosphine | 0,394 mmol, 120 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
reactant | triethylamine | 2.87 mmol, 0.40 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1H-indole | 1.36 mmol, 400 mg | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H17BrN2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 0.067 mmol, 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(1-Methylpyrrolidin-2(R)-ylmethyl)-5-(4-methylsulphonylphenyl)-1H-indole | CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C1=CC=C(C=C1)S(=O)(=O)C | C21H24N2O2S
